US08835428B2
(S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid
The title compound was prepared from (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester using the procedure as set forth in Example 8 and was obtained in 42% yield. Mass (ES+): 441 (M++1); IR (KBr): 3316 (br), 1718, 1668 (br), 1612, 1600, 1552, 1510; 1H NMR (DMSO-d6) δ: 0.95 (2×d, 6H), 2.20 (m, 1H), 4.27 (q, 2H), 7.12 (t, 2H), 7.46 (m, 2H), 7.60 (d, 2H), 7.68 (s, 1H), 7.82 (d, 2H), 8.79 (s, 1H), 8.93 (s, 1H), 8.95 (d, 1H).

reactant | (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester | COC([C@H](C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)=O | C23H23FN4O5
reactant | KBr | [K+].[Br-]
product | (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid | 42% yield | FC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N[C@H](C(=O)O)C(C)C)=O | C22H21FN4O5
